* source DRIVERS
I_I2         N443957 GND_SIGNAL DC 0Adc AC 0Aac
+SIN 5 5 120 0 0 0
R_R7         0 N443854  10k TC=0,0 
E_U1         N443887 0 VALUE {LIMIT(V(N443854,N443850)*1E6,-15V,+15V)} _U1
+  N443854 N443850 1G

R_R5         N443850 N443887  10k TC=0,0 
R_R3         GND_SIGNAL N443957  0.002 TC=0,0 
R_R6         GND_SIGNAL N443854  10k TC=0,0 
R_R4         N443957 N443850  10k TC=0,0 
