* source RSHUNT
D_D3         0 N05118 Dbreak 
D_D2         N05092 N05122 Dbreak 
R_R5         N05350 0  10000k TC=0,0 
R_R2         N05122 N05232  1 TC=0,0 
R_R3         0 N05324  10k TC=0,0 
D_D4         0 N05092 Dbreak 
V_V1         N05092 N05118  AC 0
+SIN 0 51.8 120 0 0 0
D_D1         N05118 N05122 Dbreak 
R_R1         0 N05232  2m TC=0,0 
V_V2         N06023 0 5
R_R4         N05350 N05324  290k TC=0,0 
X_U1         N05232 N05324 N06023 N065313 N05350 OPA192 
V_V3         0 N065313 5
