* source RSHUNT
R_R5         N08168 0  10000k TC=0,0 
R_R3         N11801 N10935  10k TC=0,0 
D_D3         GND_SIGNAL N07932 Dbreak 
V_V3         +5V 0 5
R_R1         GND_SIGNAL N10935  2m TC=0,0 
X_U1         N11801 N11698 +5V -5V N08168 OPA192 
R_R4         N08168 N11698  300k TC=0,0 
D_D1         N07932 N07936 Dbreak 
R_R2         N07936 N10935  1 TC=0,0 
V_V1         N07906 N07932  AC 0
+SIN 0 51.8 120 0 0 0
D_D4         GND_SIGNAL N07906 Dbreak 
D_D2         N07906 N07936 Dbreak 
R_R6         0 N11801  300k TC=0,0 
R_R7         N11698 GND_SIGNAL  10k TC=0,0 
V_V4         0 -5V 5
