* source INSTRUMENTACAO
E_U1         N444513 0 VALUE {LIMIT(V(N444501,N444505)*1E6,-15V,+15V)} _U1
+  N444501 N444505 1G

R_R4         N444541 N444505  10k TC=0,0 
R_R7         0 N444501  150k TC=0,0 
R_R5         N444505 N444513  150k TC=0,0 
R_R3         GND_SIGNAL N444541  0.002 TC=0,0 
R_R6         GND_SIGNAL N444501  10k TC=0,0 
E_U2         N444998 0 VALUE {LIMIT(V(0,N444941)*1E6,-15V,+15V)} _U2 0 N444941
+  1G

R_R8         N444513 N444941  10k TC=0,0 
R_R9         N444941 N444998  100k TC=0,0 
I_I2         GND_SIGNAL N444541 DC 0Adc AC 0Aac
+SIN 5 5 120 0 0 0
R_R10         GND_SIGNAL N447771  50 TC=0,0 
E_U3         N446571 0 VALUE {LIMIT(V(N446517,N448777)*1E6,-15V,+15V)} _U3
+  N446517 N448777 1G

R_R13         GND_SIGNAL N446517  10k TC=0,0 
R_R12         N448777 0  10k TC=0,0 
R_R11         N447771 N448777  10k TC=0,0 
R_R14         N446571 N446517  10k TC=0,0 
R_R15         N447771 N447179  1k TC=0,0 
V_V1         N447179 GND_SIGNAL  
+SIN 30 30 120 0 0 0
